US09328110B2
The general method described in Step 1 of Example 1 was used to react 4-chloro-3-nitroquinoline (20.3 g, 97.1 mmol), 1-amino-3,3-diethoxypropane (25.0 g, 116 mmol) and triethylamine (33.8 g, 333 mmol) in dichloromethane for 15 hours to provide (3,3-diethoxypropyl)-(3-nitroquinolin-4-yl)amine (30.5 g) as a yellow solid.

reactant | 4-chloro-3-nitroquinoline | 97.1 mmol, 20.3 g | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
reactant | 1-amino-3,3-diethoxypropane | 116 mmol, 25.0 g | NCCC(OCC)OCC | C7H17NO2
reactant | triethylamine | 333 mmol, 33.8 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | (3,3-diethoxypropyl)-(3-nitroquinolin-4-yl)amine | 30.5 g | C(C)OC(CCNC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-])OCC | C16H21N3O4
